US05438143
Preparation of cinnamaldehyde oxime
53.3 grams of cinnamaldehyde (0.40 mols) was added to a solution of 39.1 grams of hydroxylamine sulfate (0.48 mols) in 79.5 grams of water. The mixture was cooled in an icewater bath to 3° C. Then a solution of 17.7 grams of NaOH (0.44 mol) in 17.7 grams of water was added over a period of 25 minutes. The formed cinnamaldehyde oxime precipitated. The reaction mixture was warmed to roomtemperature and the crude product was filtered. After recrystallization from toluene pure cinnamaldehyde oxime was obtained as white crystals. Yield: 70%.

reactant | cinnamaldehyde | 0.40 mols, 53.3 grams | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | hydroxylamine sulfate | 0.48 mols, 39.1 grams | S(=O)(=O)(O)O.NO
reactant | NaOH | 0.44 mol, 17.7 grams | [OH-].[Na+]
solvent | water | 79.5 grams | O | H2O
solvent | water | 17.7 grams | O | H2O
product | cinnamaldehyde oxime | Yield: 70% | C(C=CC1=CC=CC=C1)=NO | C9H9NO
